US09079922B2
1-cyclopropyl-6-fluoro-4-oxo-7-{4-[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-piperazin-1-yl}-1,4-dihydro-quinoline-3-carboxylic acid
A mixture of 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid (commercial; 331 mg), 6-((S)-5-iodomethyl-2-oxooxazolidin-3-yl)-4H-benzo[1,4]thiazin-3-one (prepared according to WO 2008/126034; 395 mg) and DIPEA (0.5 ml) in DMSO (6 ml) was heated at 80° C. for 24 h. The reaction mixture was allowed to reach rt, poured on 0.1N HCl (50 ml) and filtered. The resulting solid was purified by CC (DCM/MeOH 19:1 to 9:1 to 4:1, followed by DCM/MeOH 19:1+1% AcOH), affording after concentration under reduced pressure and subsequent stirring in MeOH/EA a beige solid.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid | 331 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | 6-((S)-5-iodomethyl-2-oxooxazolidin-3-yl)-4H-benzo[1,4]thiazin-3-one | 395 mg | IC[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1 | C12H11IN2O3S
reactant | DIPEA | 0.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 0.1N, 50 ml | Cl | ClH
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-4-oxo-7-{4-[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-piperazin-1-yl}-1,4-dihydro-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1)F)=O)C(=O)O | C29H28FN5O6S
